US08686005B2
2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one:
A mixture of the TFA salt of 2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one (40 mg, 0.061 mmol) and methyl vinyl sulfone (318.4 mg, 3.0 mmol) in EtOH (2.0 mL) was heated at 90° C. for 22 h and then evaporated. Chromatography of the residue with CH2Cl2/MeOH/28% aqueous NH4OH (125:10:1) afforded a fluorescent product which was subjected to HPLC purification to afford the title compound in TFA salt form. 1H NMR (DMSO-d6) δ 2.01-2.17 (4H), 2.19 (s, 3H, CH3), 2.21 (s, 3H, CH3), 3.15 (s, 3H, CH3), 3.23 (m, 2H), 3.51-3.75 (8H), 4.01 (m, 2H), 4.15 (m, 1H), 4.34 (m, 1H), 4.47 (s, 2H), 6.22 (d, J=7 Hz, 1H), 6.84 (d, J=7 Hz, 1H), 6.94 (d, J=7 Hz, 1H), 6.98 (s, 1H), 7.36 (dd, J=7 Hz and 6 Hz, 1H), 7.59 (br s, 1H), 7.83 (br s, 1H), 11.14 (br s, 1H, NH), 11.23 (br d, J=6 Hz, 1H, NH); ESI-MS m/z 649.5 (MH+).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | 0.061 mmol, 40 mg | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCNCC2)O)C=CC(=C1)C | C30H34N6O4
reactant | methyl vinyl sulfone | 3.0 mmol, 318.4 mg | C(=C)S(=O)(=O)C | C3H6O2S
solvent | EtOH | 2.0 mL | CCO | C2H6O
product | 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCN(CC2)CCS(=O)(=O)C)O)C=CC(=C1)C | C33H40N6O6S
